US07977339B2
Step C: 1-(3-Ethoxyphenyl)-2-(4-fluorophenyl)-1H-imidazole-4-carboxylic acid.
To a solution of 0.67 g (1.9 mmol) of ethyl 1-(3-ethoxyphenyl)-2-(4-fluorophenyl)-1H-imidazole-4-carboxylate in 10 mL of tetrahydrofuran, 5 mL of water and 5 mL of methanol was added 0.80 mL (4.0 mmol) of 5.0 M NaOH solution. The reaction mixture was stirred at ambient temperature overnight. Hydrochloric acid (2.0 M) was then added to neutralize the reaction mixture. After removal of the organic solvents in vacuo, dichloromethane (20 mL) was added and the organic layer was separated. The aqueous layer was extracted with dichloromethane (10 mL), and the combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo to yield the title compound as a pale yellow solid. LC/MS 327.2 (M+1).

reactant | ethyl 1-(3-ethoxyphenyl)-2-(4-fluorophenyl)-1H-imidazole-4-carboxylate | 1.9 mmol, 0.67 g | C(C)OC=1C=C(C=CC1)N1C(=NC(=C1)C(=O)OCC)C1=CC=C(C=C1)F | C20H19FN2O3
reactant | NaOH | 4.0 mmol, 5.0 M, 0.80 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 2.0 M | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
solvent | methanol | 5 mL | CO | CH4O
product | 1-(3-Ethoxyphenyl)-2-(4-fluorophenyl)-1H-imidazole-4-carboxylic acid | C(C)OC=1C=C(C=CC1)N1C(=NC(=C1)C(=O)O)C1=CC=C(C=C1)F | C18H15FN2O3
